US05053509
A suspension of 8-chloro-7-fluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid (1.6 g) and (RS)-2-(4-fluorophenyl)piperazine (3.7 g) in pyridine (16 cc) is heated to a temperature in the region of 115° C. for 24 hours. The reaction mixture is concentrated under reduced pressure (20 kPa) at approximately 60° C. The residue is taken up with ethanol (40 cc) and concentrated again under reduced pressure under the above conditions. The solid obtained is taken up with water (10 cc), treated with 10% strength acetic acid (1.75 cc), drained and washed with water (2×10 cc) and ethanol (2×10 cc). After 2 recrystallizations in dimethylformamide (10 cc each time), (RS)-7-fluoro-8-[3-(4-fluorophenyl)-1-piperazinyl]-1-methyl-4-oxo-1,4-dihydrobenzo[b ][1,8]naphthyridine-3-carboxylic acid (1.1 g) is obtained in the form of a yellow solid, m.p. 270°-275° C.

reactant | 8-chloro-7-fluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid | 1.6 g | ClC=1C(=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C)C1)F | C14H8ClFN2O3
reactant | (RS)-2-(4-fluorophenyl)piperazine | 3.7 g | FC1=CC=C(C=C1)C1NCCNC1 | C10H13FN2
reactant | water | 10 cc | O | H2O
reactant | acetic acid | 1.75 cc | C(C)(=O)O | C2H4O2
solvent | pyridine | 16 cc | N1=CC=CC=C1 | C5H5N
product | (RS)-7-fluoro-8-[3-(4-fluorophenyl)-1-piperazinyl]-1-methyl-4-oxo-1,4-dihydrobenzo[b ][1,8]naphthyridine-3-carboxylic acid | 1.1 g | FC1=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C)C=C1N1CC(NCC1)C1=CC=C(C=C1)F | C24H20F2N4O3
